### PR TITLE
[Merged by Bors] - feat(GroupTheory/GroupAction/SubMulAction): two more orbit lemmas

### PR DESCRIPTION
**Pull request by jsm28**
Add two more lemmas about orbits in a `SubMulAction`, both closely related to the existing `val_image_orbit`.

From AperiodicMonotilesLean.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/GroupTheory/GroupAction/SubMulAction.lean [hunk 1]
```diff
@@ -329,6 +329,15 @@ theorem val_image_orbit {p : SubMulAction R M} (m : p) :
...
     (mul_action.orbit R m : set M) = MulAction.orbit R (m : M) := rfl
 -/
+
+theorem val_preimage_orbit {p : SubMulAction R M} (m : p) :
+    Subtype.val ⁻¹' MulAction.orbit R (m : M) = MulAction.orbit R m := by
+  rw [← val_image_orbit, Subtype.val_injective.preimage_image]
+
+lemma mem_orbit_subMul_iff {p : SubMulAction R M} {x m : p} :
+    x ∈ MulAction.orbit R m ↔ (x : M) ∈ MulAction.orbit R (m : M) := by
+  rw [←val_preimage_orbit, Set.mem_preimage]
```
Comment (eric-wieser) [inline Mathlib/GroupTheory/GroupAction/SubMulAction.lean:339]: I added this first one, since it seems possibly a little more direct that the one expressed in terms of membership. Do you still want to keep both?

Comment (jsm28) [reply Mathlib/GroupTheory/GroupAction/SubMulAction.lean]: I think both are useful, yes.

**Review by eric-wieser — APPROVED** [review]
bors merge
